US03932430
Into a flask eqipped with a magnetic stirring bar is charged 5.0 grams of 3-(4-pyridyl)-2,3,3a,4,5,6-hexahydrobenzo[6,7]cyclohepta[1,2-c] pyrazole, 25 grams of activated manganese dioxide and 150 ml of dry benzene. The mixture is stirred for about 12 hours at room temperature, after which the manganese salts are filtered off and the solvent removed in vacuo. The solid is crystallized from ethanol to give 3-(4-pyridyl)-2,4,5,6-tetrahydrobenzo[ 6,7]cyclohepta[1,2-c]pyrazole (m.p. 217°-219°C).

reactant | 3-(4-pyridyl)-2,3,3a,4,5,6-hexahydrobenzo[6,7]cyclohepta[1,2-c] pyrazole | 5.0 grams | N1=CC=C(C=C1)C1C2C(=NN1)C1=C(CCC2)C=CC=C1 | C17H17N3
catalyst | manganese dioxide | 25 grams | [O-2].[O-2].[Mn+4]
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 3-(4-pyridyl)-2,4,5,6-tetrahydrobenzo[ 6,7]cyclohepta[1,2-c]pyrazole | N1=CC=C(C=C1)C1=C2C(=NN1)C1=C(CCC2)C=CC=C1 | C17H15N3
